US03978100
In the same manner as in the preceeding Examples, 50 g of ethyl ortho-propionate, 21.6 g of dehydrolinalool and 2.1 g of isobutyric acid were reacted at 135° to 140°C. for 4 hours and the resulting reaction mixture was subjected to distillation under reduced pressure. Ethyl 2,5,9-trimethyl-3,4,8-decatrienoate was obtained in a yield of 98.5% from a fraction boiling at 129 to 130°C. under 2.3 mm Hg.

reactant | ethyl ortho-propionate | 50 g | C(CC)(OCC)([O-])[O-]
reactant | dehydrolinalool | 21.6 g | CC(=CCCC(C)(C#C)O)C | C10H16O
reactant | isobutyric acid | 2.1 g | C(C(C)C)(=O)O | C4H8O2
product | Ethyl 2,5,9-trimethyl-3,4,8-decatrienoate | yield of 98.5% | CC(C(=O)OCC)C=C=C(CCC=C(C)C)C | C15H24O2
